US06440995B1
(RS)-1-Amino-3-(2-p-tolyl-quinolin-4-ylamino)-propan-2-ol hydrochloride
The title compound, m.p. 264-272° C. and MS: m/e=308.3 (M+H+), was prepared from 4-chloro-2-p-tolyl-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-p-tolyl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C | C16H12ClN
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-(2-p-tolyl-quinolin-4-ylamino)-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C)O | InChI=1S/C19H21N3O.ClH/c1-13-6-8-14(9-7-13)18-10-19(21-12-15(23)11-20)16-4-2-3-5-17(16)22-18;/h2-10,15,23H,11-12,20H2,1H3,(H,21,22);1H
